US07964645B2
Preparation of rac-4-Fluoro-N-{[(phenyl-m-tolyl-methyl)-carbamoyl]-methyl}-benzamide
Prepared in analogy to example 1.1 from 4-fluoro-hippuric acid (CA [366-79-0]) and rac-C-phenyl-C-m-tolyl-methylamine (CA [55095-20-0]).

reactant | 4-fluoro-hippuric acid | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
reactant | rac-C-phenyl-C-m-tolyl-methylamine | C1(=CC=CC=C1)C(C=1C=C(C=CC1)C)N | C14H15N
product | rac-4-Fluoro-N-{[(phenyl-m-tolyl-methyl)-carbamoyl]-methyl}-benzamide | FC1=CC=C(C(=O)NCC(NC(C=2C=C(C=CC2)C)C2=CC=CC=C2)=O)C=C1 | C23H21FN2O2
